US07279580B2
A solution of 5-bromo-2-fluoroaniline (10 g, 52 mmol) in toluene (150 ml) was treated with 4-bromobutyryl chloride (6.1 ml, 52 mmol) and then heated at 100° C. for 14 h. The reaction was cooled then washed with water, 10% sodium carbonate, 1N HCl and water, dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo. The resulting tan solid was triturated with 5% ether in isohexane and collected by filtration to afford 4-bromo-N-(5-bromo-2-fluorophenyl)butyramide. This solid was dissolved in anhydrous N,N-dimethylformamide (150 ml) then treated with sodium hydride (1.4 g of a 60% dispersion in oil) added in portions over 5 min. The resulting mixture was stirred at 60° C. for 60 min, cooled and treated with methanol (10 ml). The reaction was diluted with water (1500 ml) and extracted with ether (2×400 ml). The organics were combined, washed with water (×3), brine, dried over anhydrous magnesium sulphate, filtered and pre-adsorbed onto silica. Chromatography on silica gel, eluting with isohexane on a gradient of ethyl acetate (20-50%), gave 1-(5-bromo-2-fluorophenyl)pyrrolidin-2-one (9.1 g, 67%) as a straw-coloured solid: δH (400 MHz, CDCl3) 2.17-2.25 (2H, m), 2.55-2.59 (2H, m), 3.80-3.84 (2H, m), 7.20 (1H, dd, J 10.5 and 9), 7.33-7.37 (1H, m), 7.59 (1H, dd, J 7 and 2.5).

reactant | 5-bromo-2-fluoroaniline | 52 mmol, 10 g | BrC=1C=CC(=C(N)C1)F | C6H5BrFN
reactant | 4-bromobutyryl chloride | 52 mmol, 6.1 ml | BrCCCC(=O)Cl | C4H6BrClO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 4-bromo-N-(5-bromo-2-fluorophenyl)butyramide | BrCCCC(=O)NC1=C(C=CC(=C1)Br)F | C10H10Br2FNO
